US07223780B2
(i) 2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2H-tetrazole-5-carboxylic acid
To a solution of 100 mg 2H-Tetrazole-5-carboxylic acid ethyl ester sodium salt in 1 ml DMF, 59 mg 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole [prepared by adopting a procedure described by Ewing, William R.; Becker, Michael R.; Choi-Sledeski, Yong Mi; Pauls, Heinz W.; He, Wei; Condon, Stephen M.; Davis, Roderick S.; Hanney, Barbara A.; Spada, Alfred P.; Burns, Christopher J.; Jiang, John Z.; Li, Aiwen; Myers, Michael R.; Lau, Wan F.; Poli, Gregory B; PCT Int. Appl. (2001) 460 pp. WO 0107436 A2] were added and the mixture was stirred at room temperature for 16 h. Then the reaction mixture was concentrated under reduced pressure. The residue was taken-up in 1 ml THF and after addtion of 1 ml of a 1M NaOH solution stirred for 16 h at RT. The mixture was acidified with half concentrated hydrochloric acid to pH 3 and the precipitate collected by filtration. The product was obtained as a white solid, which was dried under reduced pressure. Yield: 49 mg.

reactant | 2H-Tetrazole-5-carboxylic acid ethyl ester sodium salt | 100 mg | [Na].C(C)OC(=O)C=1N=NNN1
reactant | 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 59 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2H-tetrazole-5-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(N=N1)C(=O)O | C10H6ClN5O3S
